US05037830
Preparation of 6-methyl-2-[(pyridin-2-yl)methyl]thio-4(3H)-pyrimidinone
The title compound is prepared from 6-methyl-2-thiouracil and 2-chloromethylpyridinium chloride by using the process described in Example 12. After recrystallization from 2-propanol the title compound is obtained as a yellowish crystalline substance in a yield of 45%, m.p.: 154°-156° C.

reactant | 6-methyl-2-thiouracil | CC1=CC(NC(N1)=S)=O | C5H6N2OS
reactant | 2-chloromethylpyridinium chloride | [Cl-].ClCC1=[NH+]C=CC=C1
product | 6-methyl-2-[(pyridin-2-yl)methyl]thio-4(3H)-pyrimidinone | yield of 45% | CC1=CC(NC(=N1)SCC1=NC=CC=C1)=O | C11H11N3OS
